US05892048
To a solution of 0.7 g of N-methyl-N-(p-toluenesulfonyl)-(α, α-dimethyl-4-chlorophenylacetohydrazonoyl chloride in 7 ml of o-dichlorobenzene at room temperature, were added 0.33 g of 2-chloro-6-fluorobenzonitrile and 0.28 g of anhydrous aluminium chloride, and the reaction mixture was heated at 120° C. for 30 minutes. After cooling, the reaction mixture was poured into iced water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography to afford 0.6 g of 5-(2-chloro-6-fluorophenyl)-3-(4-chloro-α,α-dimethylbenzyl)-1-methyl-1H-1,2,4-triazole. m.p.97°-100° C.

reactant | α, α-dimethyl-4-chlorophenylacetohydrazonoyl chloride | CC(C(=NN)Cl)(C)C1=CC=C(C=C1)Cl | C10H12Cl2N2
reactant | 2-chloro-6-fluorobenzonitrile | 0.33 g | ClC1=C(C#N)C(=CC=C1)F | C7H3ClFN
reactant | aluminium chloride | 0.28 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | O | H2O
reactant | o-dichlorobenzene | 7 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 5-(2-chloro-6-fluorophenyl)-3-(4-chloro-α,α-dimethylbenzyl)-1-methyl-1H-1,2,4-triazole | 0.6 g | ClC1=C(C(=CC=C1)F)C1=NC(=NN1C)C(C1=CC=C(C=C1)Cl)(C)C | C18H16Cl2FN3
